US06825212B2
Preparation of N-(2-{3-[(3-Chlorophenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-1-yl}ethyl)-N-methylamine Hydrochloride
A stirred solution under nitrogen of N-(2-{3-[(3-chlorophenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-1-yl}ethyl)-N,N-dimethylamine (0.540 g, 1.49 mmol) in 1,2-dichloroethane is treated with 1-chloroethyl chloroformate (0.40 mL, 3.7 mmol), heated at reflux temperature for 2 h cooled, and concentrated in vacuo. The resultant residue is treated with ethanol, heated at reflux temperature for 2 h and concentrated in vacuo. This resultant residue is chromatographed using 2:98 concentrated NH4OH:ethanol as eluent to afford the free amine of the title product as a semi-solid (311 mg, 60%). The free amine is dissolved in ethanol, treated with 4M HCl in dioxane and filtered. The filtercake is dried to give the title product as a pale yellow solid, 274 mg (48% yield), mp 263-265° C. (dec.), identified by mass spectral and HNMR analyses.

reactant | N-(2-{3-[(3-chlorophenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-1-yl}ethyl)-N,N-dimethylamine | 1.49 mmol, 0.540 g | ClC=1C=C(C=CC1)S(=O)(=O)C1=CN(C2=NC=CC=C21)CCN(C)C | C17H18ClN3O2S
reactant | 1-chloroethyl chloroformate | 3.7 mmol, 0.40 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | N-(2-{3-[(3-Chlorophenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-1-yl}ethyl)-N-methylamine Hydrochloride | 311 mg, 60% | Cl.ClC=1C=C(C=CC1)S(=O)(=O)C1=CN(C2=NC=CC=C21)CCNC | InChI=1S/C16H16ClN3O2S.ClH/c1-18-8-9-20-11-15(14-6-3-7-19-16(14)20)23(21,22)13-5-2-4-12(17)10-13;/h2-7,10-11,18H,8-9H2,1H3;1H
